US06521754B2
(7-Bromoacetyl-4-methoxy-benzothiazol-2-yl)-carbamic acid methyll ester
1.6 g of rac-[7-(2-bromo-1 -hydroxy-ethyl)-4-methoxy-benzothiazol-2-yl]-carbamic acid methyll ester (0.0044 Mol) were dissolved in CHCl3 (100 ml) and treated with 3.8 g of MnO2 (0.044 Mol) for 3 hrs. at 70° C. The hot reaction mixture was filtered and subsequently concentrated. The crude product was crystallized from Et2O to yield the title compound as a beige solid (73%); F.p.: 250-260° C. (dec.).

reactant | rac-[7-(2-bromo-1 -hydroxy-ethyl)-4-methoxy-benzothiazol-2-yl]-carbamic acid | 0.0044 Mol, 1.6 g | BrCC(O)C1=CC=C(C=2N=C(SC21)NC(O)=O)OC | C11H11BrN2O4S
solvent | CHCl3 | 100 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | MnO2 | 0.044 Mol, 3.8 g | O=[Mn]=O
product | (7-Bromoacetyl-4-methoxy-benzothiazol-2-yl)-carbamic acid | 73% | BrCC(=O)C1=CC=C(C=2N=C(SC21)NC(O)=O)OC | C11H9BrN2O4S
